US05059602
(4-Amino-3-pyridinyl)cyclohexylmethanone oxime hydrochloride
A solution of (4-amino-3-pyridinyl)cyclohexylmethanone (5 g) and hydroxylamine hydrochloride (10 g) in 70 ml pyridine was stirred at 80° C. for three hours and thereafter concentrated. The residue was stirred with water, basified with sodium carbonate and extracted with dichloromethane. The organic extract was washed with water and saturated sodium chloride solution. The dried (anhy. MgSO4) organic layer was concentrated to 9 g waxy solid. This solid was triturated with acetonitrile to yield 4.9 g solid, m.p. 155°-158° C. Three grams were converted to the hydrochloride salt in methanol/ether to yield 2.8 g solid, m.p. 226°-228° C.

reactant | (4-amino-3-pyridinyl)cyclohexylmethanone | 5 g | NC1=C(C=NC=C1)C(=O)C1CCCCC1 | C12H16N2O
reactant | hydroxylamine hydrochloride | 10 g | Cl.NO
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | (4-Amino-3-pyridinyl)cyclohexylmethanone oxime hydrochloride | 4.9 g | Cl.NC1=C(C=NC=C1)C(=NO)C1CCCCC1 | InChI=1S/C12H17N3O.ClH/c13-11-6-7-14-8-10(11)12(15-16)9-4-2-1-3-5-9;/h6-9,16H,1-5H2,(H2,13,14);1H
